US07968746B2
Following the amide coupling procedure described in protocol A, 496 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (1.98 mmol), 376 mg CDI (2.32 mmol) and 404 mg tetrahydrofuranylamine (4.0 mmol) produced 408.0 mg of crude 6-hydroxy-2,5,7,8-tetramethyl-N-((tetrahydrofuran-2-yl)methyl)chroman-2-carboxamide, which was oxidized following protocol B, with 335 mg CAN (0.612 mmol) to yield 74.7 mg of 2-hydroxy-2-methyl-N-((tetrahydrofuran-2-yl)methyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 1.98 mmol, 496 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.32 mmol, 376 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | tetrahydrofuranylamine | 4.0 mmol, 404 mg | O1C(CCC1)N | C4H9NO
product | 6-hydroxy-2,5,7,8-tetramethyl-N-((tetrahydrofuran-2-yl)methyl)chroman-2-carboxamide | 408.0 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC1OCCC1)C)C | C19H27NO4
